US07253196B2
2-(cycloheptylamino)-5-isobutyl-1,3-oxazol-4(5H)-one
Synthesis was performed from 2-amino-5-isobutyl-1,3-oxazol-4(5H)-one and cycloheptylamine according to Method G+H.

reactant | 2-amino-5-isobutyl-1,3-oxazol-4(5H)-one | NC=1OC(C(N1)=O)CC(C)C | C7H12N2O2
reactant | cycloheptylamine | C1(CCCCCC1)N | C7H15N
product | 2-(cycloheptylamino)-5-isobutyl-1,3-oxazol-4(5H)-one | C1(CCCCCC1)NC=1OC(C(N1)=O)CC(C)C | C14H24N2O2
